US04935420
To ethyl 1-cyclopropyl-7-morpholino-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (80 mg) is added thionyl chloride (1 ml), and the mixture is stirred at room temperature for 4 hours and further at 50° C. for one hour. The solvent is concentrated under reduced pressure to give crude ethyl 1-cyclopropyl-7-morpholino-6-fluoro-8-chloromethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (84 mg).

reactant | ethyl 1-cyclopropyl-7-morpholino-6-fluoro-8-hydroxymethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 80 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)CO)N1CCOCC1)F)=O)C(=O)OCC | C20H23FN2O5
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
product | ethyl 1-cyclopropyl-7-morpholino-6-fluoro-8-chloromethyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 84 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)CCl)N1CCOCC1)F)=O)C(=O)OCC | C20H22ClFN2O4
